US07109228B2
3-(3,5-Dichlorophenoxy)-2,4-pentanedione
3-Chloro-2,4-pentanedione (183 μL, 1.53 mmol)) was added to a stirred suspension of 3,5-dichlorophenol (250 mg, 1.53 mmol) and potassium carbonate (233 mg, 1.69 mmol) in acetone (7.7 ml) at room temperature under nitrogen. The mixture was stirred for 30 minutes and then heated under reflux for 3½ hours. After cooling, sodium iodide (230 mg, 1.53 mmol) was added and refluxing continued for a further 3½ hours. After cooling again the mixture was diluted with water (5 ml) and concentrated under reduced pressure in a fumehood (Caution: possible residual lachrymator) to remove acetone. The resulting red aqueous solution was diluted with 2M hydrochloric acid (5 ml) and extracted with dichloromethane (3×10 ml). The combined organic layers were washed with saturated aqueous sodium sulphite solution (10 ml) and brine (10 ml), dried over magnesium sulphate, filtered and evaporated under reduced pressure to leave a red oil (344 mg). The crude product was purified by flash chromatography on silica gel eluting with pentane:ethyl acetate (20:1, by volume) to give the title compound (118 mg) as a cream solid m.p. 91–92° C.

reactant | 3-Chloro-2,4-pentanedione | 1.53 mmol, 183 μL | ClC(C(C)=O)C(C)=O | C5H7ClO2
reactant | 3,5-dichlorophenol | 1.53 mmol, 250 mg | ClC=1C=C(C=C(C1)Cl)O | C6H4Cl2O
reactant | potassium carbonate | 1.69 mmol, 233 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 1.53 mmol, 230 mg | [I-].[Na+]
solvent | acetone | 7.7 ml | CC(=O)C | C3H6O
solvent | water | 5 ml | O | H2O
product | 3-(3,5-Dichlorophenoxy)-2,4-pentanedione | 344 mg | ClC=1C=C(OC(C(C)=O)C(C)=O)C=C(C1)Cl | C11H10Cl2O3
